US06492403B1
99 mg (0.424 mmol) of methyl 4-(aminothioxomethyl)-5-methylthiothiophene-2-carboxylate (Maybridge Chemical Co. LTD., Cornwall, U.K.) was dissolved in 5 mL of reagent grade acetone. 2-Bromo-2′,4′-dimethoxyacetophenone (0.440 mmol; 114 mg) was added and the solution was allowed to reflux for 2.5 h. The solution was allowed to cool and the crude product was collected as a solid and washed with methanol and dried yielding 91 mg (56% yield) of methyl 4-[4-(2,4-dimethoxyphenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxylate.

reactant | methyl 4-(aminothioxomethyl)-5-methylthiothiophene-2-carboxylate | 0.424 mmol, 99 mg | NC(C=1C=C(SC1C)C(=S)OC)=S | C8H9NOS3
reactant | 2-Bromo-2′,4′-dimethoxyacetophenone | 0.440 mmol, 114 mg | BrCC(=O)C1=C(C=C(C=C1)OC)OC | C10H11BrO3
solvent | acetone | CC(=O)C | C3H6O
product | methyl 4-[4-(2,4-dimethoxyphenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxylate | 91 mg, 56% yield | COC1=C(C=CC(=C1)OC)C=1N=C(SC1)C=1C=C(SC1C)C(=S)OC | C18H17NO3S3
